US03947466
A stirred mixture of 5-chloro-2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone (1.81 g, 0.003 mole) and absolute ethanol (30 ml) is treated with hydrazine hydrate (0.437 ml, 0.009 mole) and kept in an oil bath at 72°-76°C for two hours and 20 minutes. During this period the phthalimide dissolves and a second solid forms. The mixture is cooled in an ice bath and filtered. The solid is washed with ethanol and methylene chloride. The filtrate is concentrated in vacuo. This residue is mixed with cold water and extracted with chloroform. The extract is washed (brine), dried over anhydrous sodium sulfate and concentrated in vacuo to give 8-chloro-1-(aminomethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine as a crude oil.

reactant | 5-chloro-2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | 0.003 mole, 1.81 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN2C(C=1C(C2=O)=CC=CC1)=O | C33H20ClN5O5
reactant | hydrazine hydrate | 0.009 mole, 0.437 ml | O.NN
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 8-chloro-1-(aminomethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN)C3=CC=CC=C3)C1 | C17H14ClN5
